US06930114B2
Ethyl 2-(4-hydroxy-3,5-dimethylphenyl)-8,9-dimethoxy-3-methyl-5,6-dihydro-pyrrolo[2,1-a]isoquinoline-1-carboxylate
A mixture of 500 mg (1.8 mmol) of ethyl (6,7-dimethoxy-3,4-dihydro-1(2H)-isoquinolinylidene)-ethanoate (Example III.1), 558 mg (3.61 mmol) of 3,5-dimethyl-4-hydroxybenzaldehyde, 281 mg (3.61 mmol) of nitroethane and 61.4 mg (0.72 mmol) of piperidine in 10 mL of an ethanol/isopropanol 1:1 mixture was stirred at 80° C. overnight. 40 mL of isopropanol were added, the mixture was cooled to 0° C., and the resulting precipitate was filtered off. The solid was washed with ethanol and dried in vacuo to give the title compound as a white solid which was readily recrystallized from ethyl acetate to furnish white needles.

reactant | ethyl (6,7-dimethoxy-3,4-dihydro-1(2H)-isoquinolinylidene)-ethanoate | 1.8 mmol, 500 mg | COC=1C=C2CCNC(C2=CC1OC)=CC(=O)OCC | C15H19NO4
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 3.61 mmol, 558 mg | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | nitroethane | 3.61 mmol, 281 mg | [N+](=O)([O-])CC | C2H5NO2
reactant | piperidine | 0.72 mmol, 61.4 mg | N1CCCCC1 | C5H11N
solvent | ethanol isopropanol | 10 mL | C(C)O.C(C)(C)O
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | Ethyl 2-(4-hydroxy-3,5-dimethylphenyl)-8,9-dimethoxy-3-methyl-5,6-dihydro-pyrrolo[2,1-a]isoquinoline-1-carboxylate | OC1=C(C=C(C=C1C)C=1C(=C2N(CCC3=CC(=C(C=C23)OC)OC)C1C)C(=O)OCC)C | C26H29NO5
